US05236952
70 ml. of 33 percent hydrobromic acid in acetic acid are added within 15 minutes at 10° to 20 g of 4-(benzyloxy)-3-methoxy-4'-(trifluoromethyl)benzophenone (dissolved in 150 ml of methylene chloride). After stirring at 20° for 1.5 hours, the reaction mixture is poured into 600 ml. of ice-water; the methylene chloride phase is separated and the aqueous phase is extracted twice more with 100 ml. of methylene chloride. The combined methylene chloride phases are washed with 600 ml of water, dried over sodium sulfate and evaporated. The residue is chromatographed on 150 g of silica gel with methylene chloride. After recrystallization from methylene chloride/hexane, there is obtained 4-hydroxy-3-methoxy-4'-(trifluoromethyl)benzophenone of melting point 97°.

reactant | hydrobromic acid | Br | BrH
reactant | 4-(benzyloxy)-3-methoxy-4'-(trifluoromethyl)benzophenone | 150 ml | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1)OC | C22H17F3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-hydroxy-3-methoxy-4'-(trifluoromethyl)benzophenone | OC1=C(C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1)OC | C15H11F3O3
